US06376555B1
Preparation of 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione.
To a solution of 3-isopropoxy-4-(tri-n-butyl-stannyl)-3-cyclobutene-1,2-dione (J. Org. Chem. 1990, 55, 5359-5364) (8.00 g, 18.65 mmol) in N,N-dimethyl-formamide (40 mL) was added 4-iodoanisole (4.85 g, 20.72 mmol). The flask was purged with nitrogen and cooled to 0° C. Benzylchloro-bis-(triphenylphosphine)palladium (II) (0.942 g, 1.24 mmol) and cuprous iodide (0.355 g, 1.87 mmol) were added and the mixture was stirred at room temperature overnight. Diethylether (200 mL) was added and the mixture was washed successively with saturated aqueous ammonium chloride, 10% aqueous potassium fluoride and saturated brine. The organic phase was filtered through a plug of silica. The filtrate was dried (MgSO4) and concentrated to give crude product which was dissolved in hot ethyl acetate, decolorized (charcoal) and filtered. The filtrate was treated with hexane and allowed to cool. 3-Isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione precipitated as a light yellow solid (2.46 g, 54%): 1H NMR (DMSO-d6) δ 7.89(d,2H), 7.15(d,2H), 5.45(hept,1H), 3.82(s,3H), 1.48(d,6H).

reactant | 3-isopropoxy-4-(tri-n-butyl-stannyl)-3-cyclobutene-1,2-dione | 18.65 mmol, 8.00 g | C(C)(C)OC=1C(C(C1[Sn](CCCC)(CCCC)CCCC)=O)=O
reactant | 4-iodoanisole | 20.72 mmol, 4.85 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | Diethylether | 200 mL | C(C)OCC | C4H10O
reactant | charcoal | C | CH4
solvent | N,N-dimethyl-formamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C14H14O4
